US06352651B1
1,050 g of sulfuric acid was added to 1,280 g of naphthalene, and the reaction was carried out at 160° C. for 2 hours. Unreacted materials were separated and discharged outside the container under a reduced pressure. Then, 857 g of 35% by weight concentration formalin was added and reacted at 105° C. for 5 hours to obtain a condensation product formed by methylene type bonding of β-naphthalene sulfonic acid. After being neutralized with ammonium water, the condensation product was filtrated to yield a filtrate liquid.

reactant | sulfuric acid | 1,050 g | S(O)(O)(=O)=O | H2O4S
reactant | naphthalene | 1,280 g | C1=CC=CC2=CC=CC=C12 | C10H8
product | β-naphthalene sulfonic acid | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)O | C10H8O3S
